US04531964
Preparation of 2,4-dichloro-5-ethoxycarbonylphenyl isothiocyanate.
23.4 g (0.1 mol) of 2,4-dichloro-5-ethoxycarbonylaniline were dissolved in 80 ml of chloroform. The resulting solution was cooled to 10° C. or lower and 14.9 g (0.13 mol) of thiophosgene were added dropwise thereto. The mixture was stirred at room temperature for two hours, and then refluxed for three hours. The reaction mixture was concentrated to give 27 g (yield 97.7%) of the desired product as pale brown crystals with a melting point of 45°-46° C.

reactant | 2,4-dichloro-5-ethoxycarbonylaniline | 0.1 mol, 23.4 g | ClC1=C(N)C=C(C(=C1)Cl)C(=O)OCC | C9H9Cl2NO2
reactant | thiophosgene | 0.13 mol, 14.9 g | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,4-dichloro-5-ethoxycarbonylphenyl isothiocyanate | 27 g, yield 97.7% | ClC1=C(C=C(C(=C1)Cl)C(=O)OCC)N=C=S | C10H7Cl2NO2S
